US04043998
Step IV -- Preparation of 1-(p-Nitrophenyl)-ethylenediamine Dihydrochloride
A solution of 4 g (0.015 mol) of N,N'-Diacetyl-1-(p-Nitrophenyl)-ethylenediamine in a mixture of 20 ml glacial acetic acid and 30 ml conc. HCl was heated at reflux for 24 hr and then cooled in ice. Upon filtration, 2.5 g (66%) of the crystalline 1-(p-Nitrophenyl)-ethylenediamine Dihydrochloride was collected. Anal. (C8H13N3O2Cl2) C, H, N were within 0.4% of theoretical.

reactant | N,N'-Diacetyl-1-(p-Nitrophenyl)-ethylenediamine | 0.015 mol, 4 g | C(C)(=O)NC(CNC(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O4
reactant | HCl | 30 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(p-Nitrophenyl)-ethylenediamine Dihydrochloride | Cl.Cl.[N+](=O)([O-])C1=CC=C(C=C1)C(CN)N | InChI=1S/C8H11N3O2.2ClH/c9-5-8(10)6-1-3-7(4-2-6)11(12)13;;/h1-4,8H,5,9-10H2;2*1H
